Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:10].[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9][O:11][H:12]>>[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])[O:11][H:12],-3.83342748063
[C:3]([O:4][H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]>>[H:1][C:2]=[C:3]([O:4][H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-6.932723394089999
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],5.2123006611900005
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])[H:8],4.369861987809999
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])/[C:10]=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:2](#[C:3][H:4])[C:7]([H:8])([H:9])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:10]([H:5])[H:6],1.56375155291
[O:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[O:2],1.54889116
[H:4].[O:1]=[C:2]([H:3])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],-0.664135694188
[C:4]([H:5])([H:6])=[C:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2](=[O:3])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],2.10014555478
[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[C:4][H:5],5.68296276459
[H:1][C:2]#[C:3][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-2.81266573455
[H:11].[H:1][O:2][C@:3]([C:4]([H:5])[H:6])([C:7]([H:8])=[C:9][H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C@@:3]([C:4]([H:5])[H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.957732475919999
[C:4]([H:5])[O:6][H:7].[H:1][C:2]#[C:3][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]/[C:3](=[C:4](/[H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-1.09615645583
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])([H:4])[C:5]=[C:6]([H:7])[H:8],1.15019879194
[C:9]([H:10])[H:11].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])=[C:7][H:8])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-6.43416476076
[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][O:4][C:5][C:6]([H:7])([H:8])[H:9]>>[H:1][O:2][C:3][O:4][C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.9590802064
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[H:7].[C:8]([H:9])[O:10][H:11]>>[C:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])[O:10][H:11],-3.4626153759800005
[C:10]([H:11])([H:16])[H:17].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:12]([H:13])=[C:14][H:15]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12](\[H:13])[C:14]([H:15])([H:16])[H:17],-4.5807787377
[C:1]=[C:2]([O:3][H:4])[C:5]([O:7][H:8])=[C:9]([H:10])[H:11].[H:6]>>[C:1]=[C:2]([O:3][H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])[H:11],-1.6697484081
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]#[C:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]=[C:10]([H:11])[H:12].[H:3][C:4]([H:5])=[C:8]([C:7]#[C:6])[H:9],6.09808657666
[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])[H:9].[O:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:10]([H:11])([H:12])[H:13],5.16990453164
[C:1]#[C:2][O:3][C:4]([H:5])[H:6].[C:7](=[O:8])([H:9])[H:10]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([O:8])([H:9])[H:10],-0.383796245739
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[O:8][H:9]>>[C:1].[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[O:8][H:9],5.66698392263
[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][H:3].[O:4]=[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],2.11082426476
[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]#[C:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.75900137078
[O:1].[O:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-0.62520127
[H:10].[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]#[C:9]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]#[C:9][H:10],-5.55249401977
[H:1][O:2][C:3]#[C:4]/[C:5]([H:6])=[C:7](\[H:8])[O:10][H:11].[H:9]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11],-1.96050111207
